US04244957
Preparation of 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine
0.34 g. of 1-benzyloxy-2-[(2,6-dichlorophenyl)-imino]imidazolidine is hydrogenated under normal pressure in 5 ml. of ethanol and 2 ml. of 1N hydrochloric acid in the presence of 0.05 g. of palladium-on-charcoal (5%). After the uptake of hydrogen has ended, the catalyst is filtered off and the solution is evaporated. The residue is dissolved in water and the solution is adjusted to pH 10 with caustic soda solution and extracted, first with methylene chloride and then with ethyl acetate. The organic extracts are dried over sodium sulfate and evaporated to dryness in vacuo. The residue is recrystallized from acetonitrile, whereupon 2-[(2,6-dichlorophenyl)imino]-1-hydroxy-imidazolidine, m.p. 196°, is obtained. Recrystallization from methanol/acetonitrile raises the melting point to 215°.

reactant | 1-benzyloxy-2-[(2,6-dichlorophenyl)-imino]imidazolidine | C(C1=CC=CC=C1)ON1C(NCC1)=NC1=C(C=CC=C1Cl)Cl | C16H15Cl2N3O
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine | ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)O | C9H9Cl2N3O
